US06174884B1
6-(3,4-Dimethoxy-benzyl)-1-(3-nonyl)-3-methyl-1,5-dihydro-pyrazolo[3,4-d]pyrimidin-4-one
10 mg (0.036 mmol) of 5-amino-3-methyl-(3-nonyl)-1H-pyrazole-4-carboxamide and 57 mg (0.274 mmol) of methyl 3,4-dimethoxyphenylacetate are refluxed for 6 hours in 0.5 ml of a 0.5M ethanolic sodium ethoxide solution. After dichloromethane and saturated aqueous sodium hydrogen carbonate solution have been added, the phases are separated. Purification by chromatography gives 7.3 mg (48%) of a solid, Rf=0.57 (dichloromethane/methanol=15:1).

reactant | 5-amino-3-methyl-(3-nonyl)-1H-pyrazole-4-carboxamide | 0.036 mmol, 10 mg | NC1=C(C(=NN1C(CC)CCCCCC)C)C(=O)N | C14H26N4O
reactant | methyl 3,4-dimethoxyphenylacetate | 0.274 mmol, 57 mg | COC=1C=C(C=CC1OC)CC(=O)OC | C11H14O4
reactant | sodium ethoxide | 0.5M | [O-]CC.[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
product | 6-(3,4-Dimethoxy-benzyl)-1-(3-nonyl)-3-methyl-1,5-dihydro-pyrazolo[3,4-d]pyrimidin-4-one | 7.3 mg, 48% | COC=1C=C(CC=2NC(C3=C(N2)N(N=C3C)C(CC)CCCCCC)=O)C=CC1OC | C24H34N4O3
